US09232800B2
A mixture of 2-furfural (1.0 mL, 1.17 g, 12.2 mmol, 1.5 equivalents), N′-hydroxybenzimidamide (1.11 g, 8.1 mmol) and one drop of piperidine in toluene (100 mL) was heated to reflux for 18 hours in a SOXHLETT apparatus that was charged with SILCARBON 3 Angstrom molecular sieve (8 g). The reaction mixture was allowed to cool to room temperature, and the solvent was removed in vacuo. After purification by automated column chromatography on an ISCO COMPANION apparatus (SiO2, gradient heptane/ethyl acetate), the 5-(furan-2-yl)-3-phenyl-4,5-dihydro-1,2,4-oxadiazole product (745 mg, 3.5 mmol) was obtained as a brown oil that solidified to a tan solid upon standing. The overall reaction yield was approximately 43%. LC-MS [M+H] 215 (C12H10N2O2+H, expected 215.07].

reactant | 2-furfural | 12.2 mmol, 1.0 mL, 1.17 g, 1.5 equivalents | C1=COC(=C1)C=O | C5H4O2
reactant | N′-hydroxybenzimidamide | 8.1 mmol, 1.11 g | ON=C(C1=CC=CC=C1)N | C7H8N2O
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(furan-2-yl)-3-phenyl-4,5-dihydro-1,2,4-oxadiazole | 3.5 mmol, 745 mg, yield was approximately 43% | O1C(=CC=C1)C1NC(=NO1)C1=CC=CC=C1 | C12H10N2O2
